US08182795B2
(4) Cinnamic Acid-Type Ultraviolet Absorbents
Examples of the sequestering agents include 1-hydroxy ethanel-diphosphonic acid, 1-hydroxy ethanel-diphosphonic acid tetrasodium salt, disodium edetate, trisodium edetate, tetrasodium edetate, sodium citrate, sodium polyphosphate, sodium metaphosphate, gluconic acid, phosphoric acid, citric acid, ascorbic acid, succinic acid, and trisodium ethylenediaminehydroxyethyl triacetate.

reactant | disodium edetate | C(N(CC(=O)[O-])CC(=O)O)CN(CC(=O)O)CC(=O)[O-].[Na+].[Na+]
reactant | trisodium edetate | C(N(CC(=O)[O-])CC(=O)O)CN(CC(=O)[O-])CC(=O)[O-].[Na+].[Na+].[Na+]
reactant | tetrasodium edetate | C(N(CC(=O)[O-])CC(=O)[O-])CN(CC(=O)[O-])CC(=O)[O-].[Na+].[Na+].[Na+].[Na+]
reactant | sodium citrate | C(CC(O)(C(=O)[O-])CC(=O)[O-])(=O)[O-].[Na+].[Na+].[Na+]
reactant | sodium metaphosphate | [O-]P(=O)=O.[Na+]
reactant | gluconic acid | O=C([C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO)O | C6H12O7
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | ascorbic acid | O=C1C(O)=C(O)[C@H](O1)[C@@H](O)CO | C6H8O6
reactant | succinic acid | C(CCC(=O)O)(=O)O | C4H6O4
product | Cinnamic Acid | C(C=CC1=CC=CC=C1)(=O)O | C9H8O2
